* File: pierre.pex.sp.pex
* Created: Fri Apr 28 21:36:35 2023
* Program "Calibre xRC"
* Version "v2016.4_15.11"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_PIERRE%VDD 5 6 10 14 18 42
c0 36 0 2.08446f
c1 24 0 0.147976f
c2 17 0 0.998449f
c3 9 0 0.950331f
r4 36 37 8
r5 33 36 0.772222
r6 33 34 8
r7 29 33 1.33489
r8 24 42 0.037
r9 24 29 8
r10 21 37 0.511748
r11 20 21 16.3327
r12 18 20 3.015
r13 17 37 0.485922
r14 16 17 16.3327
r15 14 16 2.97
r16 13 34 0.511748
r17 12 13 16.3327
r18 10 12 2.745
r19 9 34 0.485922
r20 8 9 16.3327
r21 6 8 2.835
r22 5 24 3.26654
.ends

.subckt PM_PIERRE%L 48 52 58 61 67 70 81 84
c0 94 0 0.739865f
c1 84 0 0.535779f
c2 77 0 0.680692f
c3 70 0 0.559696f
c4 63 0 0.651952f
c5 60 0 0.060985f
c6 57 0 0.0567226f
c7 51 0 0.176269f
c8 46 0 0.016186f
c9 44 0 0.131049f
c10 41 0 0.0150461f
c11 39 0 0.988807f
c12 38 0 0.987811f
c13 32 0 0.0426551f
c14 31 0 0.0426551f
c15 29 0 2.89835f
c16 28 0 0.731561f
c17 23 0 0.305659f
c18 20 0 0.048837f
c19 17 0 1.06621f
c20 11 0 0.0943662f
c21 9 0 0.159458f
c22 8 0 1.08753f
r23 93 94 8
r24 87 88 13.2552
r25 84 87 45.45
r26 77 81 49.032
r27 77 78 13.2552
r28 74 88 0.795146
r29 73 74 13.2552
r30 70 73 45.45
r31 64 78 0.793107
r32 63 67 49.032
r33 63 64 13.2552
r34 59 61 2.76745
r35 59 60 8.16635
r36 56 58 3.30745
r37 56 57 8.16635
r38 55 94 0.668738
r39 54 55 16.3327
r40 52 54 2.745
r41 50 51 16.3327
r42 48 50 2.97
r43 46 60 0.0941437
r44 46 47 0.0406928
r45 40 57 0.00276647
r46 40 41 0.0402303
r47 39 88 0.496796
r48 38 78 0.498835
r49 34 51 0.182816
r50 32 74 0.391456
r51 31 64 0.391456
r52 28 47 0.57835
r53 28 29 8
r54 24 29 0.413333
r55 23 24 8
r56 21 44 0.00310208
r57 21 23 0.38566
r58 20 44 0.133612
r59 20 41 0.120971
r60 18 24 0.912222
r61 18 93 0.496111
r62 17 18 8
r63 15 39 0.0395792
r64 15 17 1.15459
r65 14 38 0.0395792
r66 14 17 0.831765
r67 12 93 0.415
r68 11 12 8
r69 9 34 0.145165
r70 9 11 0.0648361
r71 8 32 0.039111
r72 7 31 0.039111
r73 7 8 1.63922
.ends

.subckt PM_PIERRE%VOUT 32 36 42 45 52
c0 48 0 0.337849f
c1 44 0 0.0609652f
c2 41 0 0.0567404f
c3 39 0 0.172235f
c4 31 0 0.0161721f
c5 28 0 0.0150461f
c6 25 0 0.176408f
c7 24 0 0.0893028f
c8 22 0 0.0467956f
c9 21 0 0.110302f
c10 19 0 2.76327f
c11 18 0 0.661732f
c12 13 0 0.186453f
c13 8 0 0.456762f
r14 47 48 8
r15 43 45 2.76745
r16 43 44 8.16635
r17 40 42 3.30745
r18 40 41 8.16635
r19 38 39 16.3327
r20 36 38 2.835
r21 35 48 0.356117
r22 34 35 16.3327
r23 32 34 3.015
r24 30 44 0.00276647
r25 30 31 0.0406928
r26 28 41 0.0941437
r27 28 29 0.0403167
r28 27 39 0.14068
r29 26 27 0.00411106
r30 25 26 0.138911
r31 24 31 0.173301
r32 21 24 0.039111
r33 21 22 0.0774757
r34 18 19 8
r35 16 22 0.039111
r36 16 18 0.661942
r37 14 19 0.404444
r38 14 52 0.691667
r39 13 29 0.260971
r40 13 14 8
r41 9 52 0.718889
r42 9 47 0.415
r43 8 9 8
r44 6 25 0.00411106
r45 6 8 0.428155
.ends

.subckt PM_PIERRE%VINN 11 21 24
c0 39 0 0.844222f
c1 34 0 0.0118577f
c2 33 0 0.240107f
c3 28 0 0.0177637f
c4 24 0 0.522511f
c5 17 0 0.610331f
c6 7 0 1.63818f
r7 33 34 8
r8 28 39 8
r9 27 28 13.2552
r10 24 27 54.18
r11 17 21 50.022
r12 17 34 13.2552
r13 14 39 1.04389
r14 13 14 8
r15 11 13 2.60482
r16 8 33 0.309444
r17 7 11 0.0961882
r18 7 8 8
.ends

.subckt PM_PIERRE%DW 56 59 62 65 68 71 74 77
c0 76 0 0.129632f
c1 73 0 0.0931515f
c2 70 0 0.0984383f
c3 67 0 0.120954f
c4 64 0 0.107814f
c5 61 0 0.108372f
c6 58 0 0.102667f
c7 55 0 0.102703f
c8 53 0 0.0170063f
c9 50 0 0.0119313f
c10 49 0 0.01241f
c11 46 0 0.0160278f
c12 44 0 0.0286133f
c13 43 0 0.0285994f
c14 40 0 0.0272429f
c15 39 0 0.027229f
c16 36 0 3.71038f
c17 35 0 0.538772f
c18 30 0 0.266553f
c19 25 0 0.519281f
c20 20 0 0.279715f
c21 16 0 0.913368f
c22 11 0 0.873306f
r23 75 77 2.24302
r24 75 76 5.44423
r25 72 74 2.33302
r26 72 73 5.44423
r27 69 71 2.24302
r28 69 70 5.44423
r29 66 68 2.33302
r30 66 67 5.44423
r31 63 65 3.30745
r32 63 64 8.16635
r33 60 62 3.30745
r34 60 61 8.16635
r35 57 59 2.76745
r36 57 58 8.16635
r37 54 56 2.76745
r38 54 55 8.16635
r39 52 76 0.0947763
r40 52 53 0.0388531
r41 50 73 0.107763
r42 50 51 0.0389377
r43 48 70 0.0947763
r44 48 49 0.0388531
r45 46 67 0.107763
r46 46 47 0.0388697
r47 44 64 0.0941437
r48 44 45 0.0403167
r49 42 61 0.00276647
r50 42 43 0.0403167
r51 40 58 0.0941437
r52 40 41 0.0406928
r53 38 55 0.00276647
r54 38 39 0.0406928
r55 35 53 0.697961
r56 35 36 8
r57 31 36 0.222222
r58 30 51 0.414563
r59 30 31 8
r60 26 31 0.633333
r61 25 49 0.696602
r62 25 26 8
r63 21 26 0.220556
r64 20 47 0.414563
r65 20 21 8
r66 17 21 1.26944
r67 16 45 0.415922
r68 16 43 0.750291
r69 16 17 8
r70 12 17 0.940556
r71 11 41 0.409806
r72 11 39 0.756408
r73 11 12 8
.ends

.subckt PM_PIERRE%VINP 11 17 28
c0 24 0 0.528388f
c1 21 0 0.0151182f
c2 17 0 0.747074f
c3 14 0 0.825077f
c4 8 0 0.240803f
c5 7 0 1.70383f
r6 25 37 8
r7 24 28 37.782
r8 24 25 13.2552
r9 21 31 8
r10 20 21 13.2552
r11 17 20 83.34
r12 14 31 1.02833
r13 13 14 8
r14 11 13 0.0592941
r15 8 37 0.298889
r16 7 11 2.78995
r17 7 8 8
.ends

.subckt PM_PIERRE%GND 43 52 55 58 61 82
c0 60 0 0.127594f
c1 57 0 0.0951895f
c2 54 0 0.0964003f
c3 51 0 0.122992f
c4 46 0 0.568735f
c5 43 0 0.0250354f
c6 42 0 0.0702176f
c7 41 0 0.0170064f
c8 40 0 0.0119313f
c9 38 0 0.0619988f
c10 37 0 0.0124102f
c11 36 0 0.0160278f
c12 33 0 1.83526f
c13 32 0 0.324971f
c14 29 0 0.0604026f
c15 28 0 0.155774f
c16 23 0 0.383728f
c17 18 0 0.302508f
c18 15 0 0.0602747f
c19 14 0 0.14101f
c20 9 0 0.401172f
r21 59 61 2.24302
r22 59 60 5.44423
r23 56 58 2.33302
r24 56 57 5.44423
r25 53 55 2.24302
r26 53 54 5.44423
r27 50 52 2.33302
r28 50 51 5.44423
r29 46 82 0.0835
r30 46 63 8
r31 43 46 3.26654
r32 41 60 0.107763
r33 41 42 0.0387719
r34 39 57 0.0947763
r35 39 40 0.0386942
r36 37 54 0.107763
r37 37 38 0.0388531
r38 35 51 0.0947763
r39 35 36 0.0387095
r40 32 33 8
r41 30 32 0.365784
r42 28 30 0.0391255
r43 28 29 0.164706
r44 26 29 0.0395182
r45 26 42 0.14
r46 24 33 0.411111
r47 23 40 0.540291
r48 23 24 8
r49 19 24 0.441111
r50 18 19 8
r51 16 18 0.365784
r52 14 16 0.0391255
r53 14 15 0.164706
r54 12 15 0.0395182
r55 12 38 0.14
r56 10 19 0.412778
r57 10 63 0.624444
r58 9 36 0.538932
r59 9 10 8
.ends

.subckt PM_PIERRE%VB 11 17 20 31 34
c0 34 0 0.682458f
c1 27 0 0.729359f
c2 20 0 0.682034f
c3 13 0 0.729268f
c4 9 0 1.21418f
c5 8 0 1.25569f
c6 7 0 0.0426551f
c7 6 0 0.0430693f
c8 5 0 1.62133f
c9 3 0 1.74619f
r10 37 38 13.2552
r11 34 37 70.74
r12 27 31 66.222
r13 27 28 13.2552
r14 24 38 1.04524
r15 23 24 13.2552
r16 20 23 70.74
r17 14 28 1.04524
r18 13 17 66.222
r19 13 14 13.2552
r20 9 38 0.50835
r21 9 11 0.0178908
r22 8 28 0.50835
r23 7 24 0.549126
r24 6 14 0.549126
r25 5 11 0.0216884
r26 4 8 0.0395792
r27 4 5 3.00176
r28 3 7 0.039111
r29 2 6 0.039111
r30 2 3 2.47718
.ends

