* File: pierre_o.pex.sp.pex
* Created: Fri Apr 28 22:14:36 2023
* Program "Calibre xRC"
* Version "v2016.4_15.11"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_PIERRE_O%VDD 17 18 22 26 30 61
c0 56 0 0.00561261f
c1 54 0 0.114261f
c2 49 0 1.57268f
c3 47 0 0.498709f
c4 43 0 0.514698f
c5 33 0 0.555654f
c6 25 0 0.211587f
c7 9 0 0.208427f
c8 7 0 0.162453f
r9 53 56 0.0662781
r10 53 54 8
r11 49 50 8
r12 46 49 0.120556
r13 46 47 8
r14 42 56 0.595
r15 42 43 8
r16 38 61 0.0191225
r17 38 54 0.0564404
r18 33 50 0.488641
r19 32 33 16.3327
r20 30 32 2.97
r21 29 47 0.503592
r22 28 29 16.3327
r23 26 28 2.745
r24 24 25 16.3327
r25 22 24 2.97
r26 21 43 0.511748
r27 20 21 16.3327
r28 18 20 2.745
r29 17 38 8.16635
r30 13 25 0.182816
r31 10 46 0.41
r32 10 42 0.245
r33 9 10 8
r34 7 13 0.145165
r35 7 9 0.200246
.ends

.subckt PM_PIERRE_O%L 36 40 46 49 55 58 69 72
c0 72 0 0.56113f
c1 65 0 0.651952f
c2 58 0 0.559696f
c3 51 0 0.651952f
c4 48 0 0.0890843f
c5 45 0 0.0890843f
c6 43 0 0.351672f
c7 39 0 0.306391f
c8 35 0 0.0161721f
c9 33 0 0.0161721f
c10 31 0 0.996203f
c11 30 0 0.975575f
c12 29 0 0.0426551f
c13 28 0 0.0426551f
c14 27 0 0.0893028f
c15 25 0 0.0467956f
c16 24 0 0.0997258f
c17 22 0 2.85996f
c18 21 0 0.275156f
c19 16 0 0.398351f
c20 12 0 1.03149f
c21 8 0 1.0687f
r22 83 84 8
r23 79 83 0.653889
r24 79 80 8
r25 75 76 13.2552
r26 72 75 45.45
r27 65 69 49.032
r28 65 66 13.2552
r29 62 76 0.795146
r30 61 62 13.2552
r31 58 61 45.45
r32 52 66 0.793107
r33 51 55 49.032
r34 51 52 13.2552
r35 47 49 2.76745
r36 47 48 8.16635
r37 44 46 2.76745
r38 44 45 8.16635
r39 43 84 0.328932
r40 42 43 16.3327
r41 40 42 2.835
r42 39 80 0.335728
r43 38 39 16.3327
r44 36 38 2.835
r45 34 48 0.00276647
r46 34 35 0.0406928
r47 32 45 0.00276647
r48 32 33 0.0406928
r49 31 76 0.496796
r50 30 66 0.498835
r51 29 62 0.391456
r52 28 52 0.391456
r53 27 35 0.173301
r54 24 27 0.039111
r55 24 25 0.0774757
r56 21 22 8
r57 19 25 0.039111
r58 19 21 0.353398
r59 17 22 0.613333
r60 16 33 0.593981
r61 16 17 8
r62 13 17 0.590556
r63 13 83 0.495
r64 12 13 8
r65 10 31 0.0395792
r66 10 12 1.148
r67 9 30 0.0395792
r68 9 12 0.838353
r69 8 29 0.039111
r70 7 28 0.039111
r71 7 8 1.63922
.ends

.subckt PM_PIERRE_O%VOUT 20 24 30 33 42
c0 40 0 0.405661f
c1 36 0 0.337849f
c2 32 0 0.0763589f
c3 29 0 0.0763589f
c4 18 0 0.0150462f
c5 16 0 0.0150461f
c6 14 0 2.67415f
c7 13 0 0.190348f
c8 8 0 0.187497f
r9 39 42 0.520556
r10 39 40 8
r11 35 39 0.651667
r12 35 36 8
r13 31 33 3.30745
r14 31 32 8.16635
r15 28 30 3.30745
r16 28 29 8.16635
r17 27 40 0.358835
r18 26 27 16.3327
r19 24 26 3.015
r20 23 36 0.356117
r21 22 23 16.3327
r22 20 22 3.015
r23 18 32 0.0941437
r24 18 19 0.0403167
r25 16 29 0.0941437
r26 16 17 0.0403167
r27 13 19 0.260971
r28 13 14 8
r29 9 14 0.731667
r30 9 42 0.653333
r31 8 17 0.260971
r32 8 9 8
.ends

.subckt PM_PIERRE_O%DW 62 65 68 71 74 77 80 83
c0 82 0 0.0931515f
c1 79 0 0.0951895f
c2 76 0 0.120954f
c3 73 0 0.122992f
c4 70 0 0.0848398f
c5 67 0 0.0806035f
c6 64 0 0.0848398f
c7 61 0 0.0806035f
c8 58 0 0.0119313f
c9 57 0 0.0119313f
c10 54 0 0.0160278f
c11 53 0 0.0160278f
c12 51 0 0.0150461f
c13 48 0 0.016186f
c14 46 0 0.13105f
c15 43 0 0.0150461f
c16 40 0 0.016186f
c17 39 0 3.27198f
c18 38 0 0.720269f
c19 33 0 0.749302f
c20 27 0 0.533408f
c21 22 0 0.438236f
c22 17 0 0.444405f
c23 14 0 0.048837f
c24 10 0 0.331759f
r25 81 83 2.33302
r26 81 82 5.44423
r27 78 80 2.33302
r28 78 79 5.44423
r29 75 77 2.33302
r30 75 76 5.44423
r31 72 74 2.33302
r32 72 73 5.44423
r33 69 71 3.30745
r34 69 70 8.16635
r35 66 68 2.76745
r36 66 67 8.16635
r37 63 65 3.30745
r38 63 64 8.16635
r39 60 62 2.76745
r40 60 61 8.16635
r41 58 82 0.107763
r42 58 59 0.0389377
r43 56 79 0.0947763
r44 56 57 0.0389377
r45 54 76 0.107763
r46 54 55 0.0388697
r47 52 73 0.0947763
r48 52 53 0.0388697
r49 50 70 0.00276647
r50 50 51 0.0403167
r51 48 67 0.0941437
r52 48 49 0.0406928
r53 42 64 0.00276647
r54 42 43 0.0402303
r55 40 61 0.0941437
r56 40 41 0.0410114
r57 38 59 0.414563
r58 38 57 0.695922
r59 38 39 8
r60 34 39 0.853889
r61 33 55 0.414563
r62 33 53 0.695922
r63 33 34 8
r64 28 34 1.02278
r65 27 51 0.750291
r66 27 28 8
r67 23 28 0.207778
r68 22 49 0.409806
r69 22 23 8
r70 18 23 0.416111
r71 17 18 8
r72 15 46 0.00310208
r73 15 17 0.549434
r74 14 46 0.133612
r75 14 43 0.120971
r76 11 18 0.316667
r77 10 41 0.409806
r78 10 11 8
.ends

.subckt PM_PIERRE_O%GND 23 32 35 38 41 61
c0 44 0 0.547939f
c1 40 0 0.127594f
c2 37 0 0.129632f
c3 34 0 0.0964003f
c4 31 0 0.0984383f
c5 23 0 0.0304623f
c6 21 0 0.0170063f
c7 20 0 0.0170063f
c8 17 0 0.0124102f
c9 16 0 0.01241f
c10 14 0 2.00225f
c11 13 0 0.711631f
c12 8 0 0.719438f
r13 43 44 8
r14 39 41 2.24302
r15 39 40 5.44423
r16 36 38 2.24302
r17 36 37 5.44423
r18 33 35 2.24302
r19 33 34 5.44423
r20 30 32 2.24302
r21 30 31 5.44423
r22 28 61 0.0333155
r23 28 44 0.080107
r24 23 28 8.16635
r25 21 40 0.107763
r26 21 22 0.0388531
r27 19 37 0.0947763
r28 19 20 0.0388531
r29 17 34 0.107763
r30 17 18 0.0388531
r31 15 31 0.0947763
r32 15 16 0.0388531
r33 13 22 0.568835
r34 13 20 0.54165
r35 13 14 8
r36 9 14 0.855556
r37 9 43 0.802778
r38 8 18 0.568835
r39 8 16 0.54165
r40 8 9 8
.ends

.subckt PM_PIERRE_O%VINN 7 14 19
c0 11 0 1.10234f
c1 10 0 0.516873f
c2 3 0 0.516041f
r3 11 19 0.082233
r4 10 14 42.642
r5 10 11 13.2552
r6 4 19 0.816214
r7 3 7 42.642
r8 3 4 13.2552
.ends

.subckt PM_PIERRE_O%VINP 3 10 19
c0 14 0 1.08542f
c1 10 0 0.493891f
c2 3 0 0.494132f
r3 14 19 0.082233
r4 13 14 13.2552
r5 10 13 50.76
r6 7 19 0.816214
r7 6 7 13.2552
r8 3 6 50.76
.ends

.subckt PM_PIERRE_O%VB 7 17 20 31 34
c0 34 0 0.68186f
c1 27 0 0.729639f
c2 20 0 0.682034f
c3 13 0 0.729092f
c4 11 0 1.25255f
c5 10 0 1.25569f
c6 9 0 0.0426551f
c7 8 0 0.0430693f
c8 7 0 1.58311f
c9 3 0 1.8242f
r10 37 38 13.2552
r11 34 37 70.74
r12 27 31 66.222
r13 27 28 13.2552
r14 24 38 1.04524
r15 23 24 13.2552
r16 20 23 70.74
r17 14 28 1.04524
r18 13 17 66.222
r19 13 14 13.2552
r20 11 38 0.50835
r21 10 28 0.50835
r22 9 24 0.549126
r23 8 14 0.549126
r24 5 11 0.0395792
r25 5 7 1.13729
r26 4 10 0.0395792
r27 4 7 1.86447
r28 3 9 0.039111
r29 2 8 0.039111
r30 2 3 2.47718
.ends

